US06124323
1-(2-Phenoxyethyl)-4-(3-Fluorobenzyl)piperidine hydrochloride
4-(3-Fluorobenzyl)piperidine hydrochloride. A solution of 1-benzyl-4-(3-fluorobenzyl)piperidine hydrochloride (319 mg, 1.0 mmol) in 10 ml of methanol with 80 mg of 10% Pd/C was hydrogenated at 50 psi to give 228 mg (98%) of the title compound, mp 173-175° C. 1H NMR (CHCl3) 1.613-1.807 (m, 5 H), 2.593 (m, 2 H), 2.785 (m, 2 H), 3.481 (m, 2 H), 6.880 (m, 3 H), 7.25 (m, 1 H), 9.363 (s, 1 H), 9.634 (s, 1 H).

reactant | 4-(3-Fluorobenzyl)piperidine hydrochloride | Cl.FC=1C=C(CC2CCNCC2)C=CC1
reactant | 1-benzyl-4-(3-fluorobenzyl)piperidine hydrochloride | 1.0 mmol, 319 mg | Cl.C(C1=CC=CC=C1)N1CCC(CC1)CC1=CC(=CC=C1)F
reactant | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | 1-(2-Phenoxyethyl)-4-(3-Fluorobenzyl)piperidine hydrochloride | 228 mg, 98% | Cl.O(C1=CC=CC=C1)CCN1CCC(CC1)CC1=CC(=CC=C1)F | InChI=1S/C20H24FNO.ClH/c21-19-6-4-5-18(16-19)15-17-9-11-22(12-10-17)13-14-23-20-7-2-1-3-8-20;/h1-8,16-17H,9-15H2;1H
